US05268443
A solution of 3-phenyl-4-hydroxybenzoic acid (131.1 g, 0.061 mole) and a 50 weight percent aqueous solution of NaOH (10.5 g, 0.131 mole) in 350 ml of deionized water was added to a 500 ml, three-necked, round-bottom flask equipped with a thermometer and a polytetrafluoroethylene-coated magnetic stir bar. The solution was stirred to homogeneity and then immersed in an ice water bath. With the solution temperature at 10° C., acetic anhydride (12.7 g, 0.124 mole) was added rapidly with stirring. Immediately, a white precipitate began to form. The reaction mixture was stirred for one hour at 10° C., then neutralized with concentrated HCl. The precipitate was filtered, washed in 500 ml of deionized water for one hour, filtered, and dried in an 80° C. vacuum oven for three hours yielding an off-white solid. The solid was recrystallized from a toluene and hexane mixture to give a fluffy white solid, 3-phenyl-4-acetoxybenzoic acid with a m.p. of 185° C. to 187° C.

reactant | 3-phenyl-4-hydroxybenzoic acid | 0.061 mole, 131.1 g | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1O | C13H10O3
reactant | NaOH | 0.131 mole, 10.5 g | [OH-].[Na+]
reactant | acetic anhydride | 0.124 mole, 12.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
solvent | water | 350 ml | O | H2O
product | 3-phenyl-4-acetoxybenzoic acid | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1OC(C)=O | C15H12O4
